US06852731B2
Ethyl 2-(hydroxymethyl)-3,4-dimethyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxylate
To a 0° C. mixture of ethyl 2-formyl-3,4-dimethyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxylate (695 mg, 2.49 mmol) and glacial acetic acid (0.71 mL, 12.5 mmol) in 1,2-dichloroethane (23 mL) was added sodium triacetoxyborohydride (1.06 g, 4.98 mmol). After stirring for 5 min at 0° C., the reaction was stirred at room temperature for 3.5 hours. The reaction was poured into sat. aqueous. sodium bicarbonate (50 mL) and methylene chloride (30 mL), stirred vigorously for 5 minutes, and filtered. The collected solid was washed with water and methylene chloride, then dried in vacuo, leaving an off-white solid (665 mg, 93%).

reactant | ethyl 2-formyl-3,4-dimethyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxylate | 2.49 mmol, 695 mg | C(=O)C1=C(C=2N(C=C(C(C2S1)=O)C(=O)OCC)C)C | C13H13NO4S
reactant | acetic acid | 12.5 mmol, 0.71 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 4.98 mmol, 1.06 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
solvent | 1,2-dichloroethane | 23 mL | ClCCCl | C2H4Cl2
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 2-(hydroxymethyl)-3,4-dimethyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxylate | 665 mg, 93% | OCC1=C(C=2N(C=C(C(C2S1)=O)C(=O)OCC)C)C | C13H15NO4S
